US07153878B2
2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propionic acid ethyl ester (1.11 g, 3.12 mmol) and tetrahydrofuran (50 mL) are cooled to 0° C. Lithium aluminum hydride (0.24 g, 6.25 mmol) is added and the resulting mixture is stirred 20 hr at room temperature. The mixture is cooled to 0° C. and 1M aqueous hydrochloric acid (50 mL) is carefully added. The mixture is then diluted with ethyl acetate (100 mL) and the layers are separated. The aqueous layer is washed with ethyl acetate (100 mL) and the organic ishes are combined, washed with water and brine (50 mL each), dried over anhydrous magnesium sulfate, filtered and concentrated to constant weight to give 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propan-1-ol as a pale orange oil, 1.03 g, 100%. MS (M++1) 314.

reactant | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propionic acid ethyl ester | 3.12 mmol, 1.11 g | C(C)OC(C(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)=O | C18H20F3NO3
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | Lithium aluminum hydride | 6.25 mmol, 0.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1M, 50 mL | Cl | ClH
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-propan-1-ol | C(C)(C)C=1N=C(OC1C(CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NO2
